US05830915
D-Alanine methyl ester (4 g, 28.66 mmol) is taken up in methanol (100 mL). To this is added sodium acetate (5.88 g, 71.65 mmol) and benzaldehyde (2.9 mL, 28.66 mmol). The mixture is stirred for 15 minutes and then a solution of sodium cyanoborohydride (1.08 g, 17.2 mmol) in methanol (5 mL) is added dropwise to the mixture. After stirring for 2 hours methanol is evaporated under reduced pressure and the product is extracted into ether and washed with water (2×). The crude product is purified by silica gel flash chromatography (8:2 hexane:ethyl acetate) to give 3.3 g of N-benzyl D-alanine methyl ester as an oil.

reactant | D-Alanine methyl ester | 28.66 mmol, 4 g | COC([C@H](N)C)=O | C4H9NO2
reactant | sodium acetate | 71.65 mmol, 5.88 g | C(C)(=O)[O-].[Na+]
reactant | benzaldehyde | 28.66 mmol, 2.9 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 17.2 mmol, 1.08 g | C(#N)[BH3-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 5 mL | CO | CH4O
product | N-benzyl D-alanine methyl ester | 3.3 g | COC([C@H](NCC1=CC=CC=C1)C)=O | C11H15NO2
